US06326349B1
A mixture of mainly E-cyclododec-3-en-1-one (74%) and Z-cyclododec-3-en-1-one (19%) is treated with isopropenylmagnesium bromide in tetrahydrofuran, to form mainly E-1-isopropenylcyclododec-3-en-1-ol. The purified E-1-isopropenylcyclododec-3-en-1-ol is treated with potassium hydride in N,N-dimethylacetamide in the presence of 18-crown-6, that forms a mixture of diastereomeric 2-methyl-4-vinylcyclododecanone and E-2-methylcyclotetradec-5-en-1-one.

reactant | E-cyclododec-3-en-1-one | C1(C\C=C\CCCCCCCC1)=O | C12H20O
reactant | Z-cyclododec-3-en-1-one | C1(C\C=C/CCCCCCCC1)=O | C12H20O
reactant | isopropenylmagnesium bromide | C(=C)(C)[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | E-1-isopropenylcyclododec-3-en-1-ol | C(=C)(C)C1(C\C=C\CCCCCCCC1)O | C15H26O
